### PR TITLE
[Merged by Bors] - feat: Proof of Hermite theorem on number fields of bounded discriminant

### PR DESCRIPTION
**Pull request by xroblot**
Let `N` be an integer.  Then there are only finitely many number fields (in some fixed extension of `ℚ`) of discriminant bounded in absolute value by `N`.

---

- [x] depends on: #10031 
- [x] depends on: #10032
- [x] depends on: #10033 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean [hunk 1]
```diff
@@ -909,7 +1106,7 @@ theorem exists_ne_zero_mem_ideal_of_norm_le {B : ℝ}
   · rw [← Nat.cast_sum, sum_mult_eq, Nat.cast_pos]
     exact finrank_pos
 
-/- Necessary to prevent a timeout that ends at here. #10131 -/
+/- TODO: Remove!. Necessary to prevent a timeout that ends at here. #10131 -/
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: There is a bunch of this `TODO` that I don't understand.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean [hunk 2]
```diff
@@ -610,6 +614,124 @@ theorem adjust_f {w₁ : InfinitePlace K} (B : ℝ≥0) (hf : ∀ w, w ≠ w₁
...
+    · specialize h₂ w (not_isReal_iff_isComplex.mp hw)
+      rwa [if_neg (by exact Subtype.ne_of_val_ne h_ne)] at h₂
+  · simpa [if_true] using h₂ w₀.val w₀.prop
+  · exact h₁ w (ne_of_isReal_isComplex hw w₀.prop)
+  · by_cases h_ne : w = w₀
+    · simpa [h_ne]
+    · rw [if_neg (by exact Subtype.ne_of_val_ne h_ne)]
+      exact h₁ w h_ne
+
+theorem convexBodyLT'_symmetric (x : E K) (hx : x ∈ (convexBodyLT' K f w₀)) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:653]: We usually call this results `neg_mem` or something similar (since `symmetric` does not appear in the statement).

File: Mathlib/NumberTheory/NumberField/Discriminant.lean [hunk 3]
```diff
@@ -17,9 +16,12 @@ This file defines the discriminant of a number field.
 
 ## Main result
 
-* `NumberField.abs_discr_gt_two`: **Hermite-Minkowski Theorem**. A nontrivial number field has
+* `NumberField.discr_gt_one`: **Hermite-Minkowski Theorem**. A nontrivial number field has
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Discriminant.lean:19]: Is this wanted? The statement is now `2 < ...`

File: Mathlib/NumberTheory/NumberField/Discriminant.lean [hunk 4]
```diff
@@ -215,6 +217,222 @@ theorem abs_discr_gt_two (h : 1 < finrank ℚ K) : 2 < |discr K| := by
...
+real place or not, the theorem is proved in two parts.
+-/
+
+namespace hermiteTheorem
+
+open Polynomial
+
+open scoped IntermediateField BigOperators
+
+variable (A : Type*) [Field A] [CharZero A]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Discriminant.lean:251]: Maybe `A` can be implicit, but as you prefer.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Discriminant.lean:251]: Yeah, I think I like it better if `A` is explicit

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:653]: Good point. I changed it everywhere in the file.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: (I also added these lines to a several functions that have the same problem).

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: #10131 has been merged, so if there is still a problem we should at least modify the comment.

Comment (YaelDillies) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: Yes my refactor pushed a few unrelated few things over the limit.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: So what should I do about these messages. Change the text to say the problem is still there? Or try to fix it 😛

Comment (YaelDillies) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: Don't add any more todos, but leave the ones that are already there

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: Well, I have similar problems in some functions added by this PR, so I need to do something about those.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:1109]: If you can fix them even better, but anyway I would remove (or say something more) the reference to #10131.

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean]: Actually, it was easier to solve that I expected (although I am not sure why it works). The problem was that Lean timed out trying to synthesize `OfNat (FractionalIdeal (↥(𝓞 K))⁰ K)ˣ 1` but replacing `1` by `↑1` does the trick.

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean [hunk 5]
```diff
@@ -858,19 +980,86 @@ theorem exists_ne_zero_mem_ideal_lt (h : minkowskiBound K I < volume (convexBody
...
   obtain ⟨⟨x, hx⟩, h_nz, h_mem⟩ := exists_ne_zero_mem_lattice_of_measure_mul_two_pow_lt_measure
-    h_fund (convexBodyLT_symmetric K f) (convexBodyLT_convex K f) h
+    h_fund (convexBodyLT_neg_mem K f) (convexBodyLT_convex K f) h
   rw [mem_toAddSubgroup, mem_span_fractionalIdealLatticeBasis] at hx
   obtain ⟨a, ha, rfl⟩ := hx
   exact ⟨a, ha, by simpa using h_nz, (convexBodyLT_mem K f).mp h_mem⟩
 
-/- TODO: Remove!. Necessary to prevent a timeout that ends at here. #10131 -/
-attribute [-instance] FractionalIdeal.commSemiring in
+/-- A version of `exists_ne_zero_mem_ideal_lt` where the absolute value of the real part of `x` is
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:988]: I don't understand the docstring, there is no `x` in the theorem.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/CanonicalEmbedding.lean:988]: Indeed. It should be `a`. 

Thanks for the review!
